US04086242
Preparation of 4-amino-1-cyclohexyl-1H-benzotriazole
In a 500 ml. Paar hydrogenator is placed 49.2 g. of the 4-nitro-1-cyclohexyl-1H-benzotriazole, 220 ml. ethanol and 2.5 g. 10% palladium on carbon catalyst and the mixture is heated to 45° C. Hydrogen is introduced at about 40 psi and the temperature of the reaction is maintained at 60° C. The reaction is over after 11/2 hours and the catalyst is then removed by filtration. On evaporation of the solvent, the product is isolated in quantitative yield as an oil, which solidifies on standing, m.p. 54°-60° C. Analysis Calcd. for C12H16N4 : C, 66.64; H, 7.46; N, 25.90. Found: C, 66.38; H, 7.55; N, 25.69.

reactant | 4-nitro-1-cyclohexyl-1H-benzotriazole | [N+](=O)([O-])C1=CC=CC=2N(N=NC21)C2CCCCC2 | C12H14N4O2
reactant | Hydrogen | [H][H] | H2
catalyst | palladium on carbon | [Pd] | Pd
solvent | ethanol | C(C)O | C2H6O
product | 4-amino-1-cyclohexyl-1H-benzotriazole | quantitative yield | NC1=CC=CC=2N(N=NC21)C2CCCCC2 | C12H16N4
